US04139702
2.72 g 7-ACA were suspended in 60 ml methylene chloride, then adding 2.2 g triethylamine. After cooling to -40° C., 21 ml of a 1,1 molar solution of ethylene chloroboronate in methylene chloride was poured into the mixture. The mixture was heated to -10° C. and 1.9 g of 2-thienylacetic acid chloride were poured into the mixture. Stirring was maintained for 2 hours at 0° C. 40 ml water were poured therein and after unmixing, the organic phase was added with a solution of sodium bicarbonate to constant pH 7.5. The phases were separated and the aqueous phase was washed with 50 ml methylene chloride. The aqueous phase was treated with decolouring carbon and dicalite. The product was filtered and after addition of 65 ml acetone the filtrate was acidified to pH 2. The product was allowed to crystallize at +5° C. for 2 hours, then filtered, washing with water and acetone. After vacuum drying at 40° C. 2.8 g 7-(2-thienylacetamido) cephalosporanic acid were obtained.

reactant | 7-ACA | 2.72 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | ethylene chloroboronate | ClB1OCCO1 | C2H4BClO2
reactant | 2-thienylacetic acid chloride | 1.9 g | S1C(=CC=C1)CC(=O)Cl | C6H5ClOS
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | water | 40 ml | O | H2O
solvent | triethylamine | 2.2 g | C(C)N(CC)CC | C6H15N
product | 7-(2-thienylacetamido) cephalosporanic acid | 2.8 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)CC3=CC=CS3)SC1)C(=O)O | C16H16N2O6S2
